US05374732
In a reactor, 4-methylpyridine-2-sulfonic acid (3.46 g, 20 mmol) was dissolved in a mixture of acetonitrile (60 ml) and water (6 ml). The reactor was dipped in a cooling bath kept at -20° C., and fluorine gas diluted with nitrogen gas to a concentration of 10% was introduced at a flow rate of 40 ml/min. A total amount of the fluorine gas was 1334 ml (60 mmol). Then, the nitrogen gas alone was introduced at a flow rate of 36 ml/min. for 30 minutes. After the addition of tetrahydrofuran and ethyl ether at -20° C., a crystalline precipitate was recovered by filtration at room temperature. The crystal was washed with ethyl ether and dried under reduced pressure to obtain crystalline N-fluoro-4-methylpyridinium-2-sulfonate (3.04 g, 15.9 mmol). Yield, 80%. A melting point is shown in Table 1. IR and NMR data are as follows:

reactant | 4-methylpyridine-2-sulfonic acid | 20 mmol, 3.46 g | CC1=CC(=NC=C1)S(=O)(=O)O | C6H7NO3S
reactant | fluorine | FF | F2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | water | 6 ml | O | H2O
product | N-fluoro-4-methylpyridinium-2-sulfonate | 15.9 mmol, 3.04 g | F[N+]1=C(C=C(C=C1)C)S(=O)(=O)[O-] | C6H6FNO3S
